US09163011B2
c) 3-Amino-5-difluoromethyl-pyridine-2-carboxylic acid
To a solution of 265 mg (1.22 mmol) 5-difluoromethyl-3-nitro-pyridine-2-carboxylic acid in EtOH was added 50 mg Raney-Nickel (Degussa B113W) and the reaction mixture was kept shaking under a hydrogen atmosphere for 16 h. The catalyst was filtered off (Celite) and washed with EtOH and the filtrate was evaporated to provide the title compound as off-white solid.

reactant | 5-difluoromethyl-3-nitro-pyridine-2-carboxylic acid | 1.22 mmol, 265 mg | FC(C=1C=C(C(=NC1)C(=O)O)[N+](=O)[O-])F | C7H4F2N2O4
solvent | EtOH | CCO | C2H6O
catalyst | Raney-Nickel | 50 mg | [Ni] | Ni
product | 3-Amino-5-difluoromethyl-pyridine-2-carboxylic acid | NC=1C(=NC=C(C1)C(F)F)C(=O)O | C7H6F2N2O2
